US07960562B2
3-Fluorobenzoyl chloride was added to a mixture of 2-methylbenzimidazole, triethylamine and dioxane, followed by heating under reflux for 3 hours and cooling to room temperature. Morpholine was added, followed by stirring under heat at 70° C. for 1 hour and work-up to obtain 1-(3-fluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)ethanone.

reactant | 3-Fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | 2-methylbenzimidazole | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Morpholine | N1CCOCC1 | C4H9NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3-fluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)ethanone | FC=1C=C(C=CC1)C(C=C1NC2=C(N1)C=CC=C2)=O | C15H11FN2O
